US07479558B2
3-{8-(2,6-difluorophenyl)-7-oxo-2-[4-(1-pyrrolidinyl)-1-piperidinyl]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of 5-chloro-1-(2,6-difluorophenyl)-7-[4-(1-pyrrolidinyl)-1-piperidinyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (18 mg, 0.04 mmol) in dioxane (1.5 mL)/water (0.5 mL) were added potassium carbonate (34 mg, 0.25 mmol), tetrakis(triphenylphosphine)palladium(0) (2.3 mg, 0.002 mmol) and N-(4-fluorophenyl)-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (22 mg, 0.062 mmol). The reaction mixture was bubbled with N2 for 5 mins, then microwaved at about 150° C. for about 30 mins. The reaction mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (14 mg, 54%).

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-[4-(1-pyrrolidinyl)-1-piperidinyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.04 mmol, 18 mg | ClC1=C2C(=NC(=N1)N1CCC(CC1)N1CCCC1)N(C(NC2)=O)C2=C(C=CC=C2F)F | C21H23ClF2N6O
reactant | water | 0.5 mL | O | H2O
reactant | potassium carbonate | 0.25 mmol, 34 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(4-fluorophenyl)-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.062 mmol, 22 mg | FC1=CC=C(C=C1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C20H23BFNO3
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mmol, 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{8-(2,6-difluorophenyl)-7-oxo-2-[4-(1-pyrrolidinyl)-1-piperidinyl]-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide | 14 mg, 54% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)N2CCC(CC2)N2CCCC2)=O | C35H34F3N7O2
